US04196120
To a stirred mixture of 1.0 g of 3-formyl-1-(p-hydroxyphenyl)-3-azabicyclo[3.1.0]hexane and 0.7 g of potassim carbonate in 25 ml of absolute ethanol is added a solution of 3.2 g of ethyl iodide in 10 ml of absolute ethanol. The mixture is refluxed for 2 hours and then is filtered and evaporated. The residual mixture of crystals and liquid is combined with water and this is extracted with chloroform and the extract is dried over magnesium sulfate and evaporated to give 1.0 g of a colorless, viscous liquid, which crystallizes on standing. Recrystallization from hexane gives 0.31 g of 3-formyl-1 -(p-ethoxyphenyl)-3-azabicyclo[3.1.0]hexane as colorless crystals, m.p. 48°-51° C.

reactant | 3-formyl-1-(p-hydroxyphenyl)-3-azabicyclo[3.1.0]hexane | 1.0 g | C(=O)N1CC2(CC2C1)C1=CC=C(C=C1)O | C12H13NO2
reactant | carbonate | 0.7 g | C([O-])([O-])=O
reactant | ethyl iodide | 3.2 g | C(C)I | C2H5I
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-formyl-1 -(p-ethoxyphenyl)-3-azabicyclo[3.1.0]hexane | 0.31 g | C(=O)N1CC2(CC2C1)C1=CC=C(C=C1)OCC | C14H17NO2
